US06255496B1
4-[4-[2-[2-[Bis(4-methylphenyl)methoxy]ethylthio]ethoxy]phenyl]-1,1,1-trifluoro-2-butanone
A solution of 4-[4-[2-(2-hydroxyethylthio)ethoxy]phenyl]-1,1,1-trifluoro-2-butanone (1.20 g, 3.72 mmol), 4,4′-dimethylbenzhydrol (0.95 g, 4.47 mmol) and p-toluenesulfonic acid (0.035 g) in toluene (20 ml) was heated under reflux for 15 min. The cooled reaction mixture was diluted with ethyl acetate, washed with saturated sodium bicarbonate, brine and dried (magnesium sulfate). Evaporation of the solvent in vacuo and chromatography of the residue on silica gel (elution with a gradient of ethyl acetate 20-40% in hexane) gave 1.81 g (94%) of the title material as an oil.

reactant | 4-[4-[2-(2-hydroxyethylthio)ethoxy]phenyl]-1,1,1-trifluoro-2-butanone | 3.72 mmol, 1.20 g | OCCSCCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O | C14H17F3O3S
reactant | 4,4′-dimethylbenzhydrol | 4.47 mmol, 0.95 g | CC1=CC=C(C(C2=CC=C(C=C2)C)O)C=C1 | C15H16O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | p-toluenesulfonic acid | 0.035 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 4-[4-[2-[2-[Bis(4-methylphenyl)methoxy]ethylthio]ethoxy]phenyl]-1,1,1-trifluoro-2-butanone | 1.81 g, 94% | CC1=CC=C(C=C1)C(OCCSCCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O)C1=CC=C(C=C1)C | C29H31F3O3S
